US06716850B2
a) 3,4-Dihydro-2H-1-benzothiopyran-4-ol
A solution of thiochroman-4-one (9 g) in ether (27 ml) was added slowly to a mixture of lithium aluminium hydride (0.53 g) in ether (54 ml). After the end of the addition, the mixture was refluxed for 2 hours. The reaction mixture was cooled and ice was added, followed by water and by a solution of 20% H2SO4. The water phase was washed twice with ether. The ether phase was washed twice with NaOH 2N, and once with water, dried over MgSO4 and evaporated. The clear oil (8.9 g) crystallised after few hours. Rdt=97%

reactant | thiochroman-4-one | 9 g | S1CCC(C2=CC=CC=C12)=O | C9H8OS
reactant | lithium aluminium hydride | 0.53 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | ether | 27 ml | CCOCC | C4H10O
solvent | ether | 54 ml | CCOCC | C4H10O
product | 3,4-Dihydro-2H-1-benzothiopyran-4-ol | S1CCC(C2=C1C=CC=C2)O | C9H10OS
